2190-12-03 10:51:00 Physician Attending Progress Note
Chief Complaint: GI bleed, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2190-12-3**] 03:15 AM
   Overnight, improving mental status.  Initially mumbling responses, now
   speaking more in [**Hospital1 1628**] sentences.
   Experienced episodes of hypotension overnight, asymptomatic, with some
   improvement with iv fluid boluses and addition of higher dose steroids.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Iodine
   Unknown;
   Penicillins
   Unknown;
   Morphine
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Allopurinol
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Tetracycline
   Unknown;
   Septra (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Ramipril
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2190-12-2**] 10:00 PM
   Vancomycin - [**2190-12-3**] 12:28 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-12-3**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.5
   Tcurrent: 35.1
C (95.2
   HR: 70 (70 - 76) bpm
   BP: 110/56(73) {72/43(52) - 110/61(74)} mmHg
   RR: 17 (11 - 26) insp/min
   SpO2: 94%
   Heart rhythm: AV Paced
   Height: 67 Inch
             Total In:
                                                                  1,803 mL
                                                                  2,073 mL
   PO:
                                                                     50 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  1,753 mL
                                                                  2,023 mL
   Blood products:
   Total out:
                                                                    425 mL
                                                                    325 mL
   Urine:
                                                                    300 mL
                                                                    100 mL
   NG:
   Stool:
                                                                    125 mL
                                                                    225 mL
   Drains:
   Balance:
                                                                  1,378 mL
                                                                  1,748 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: 7.40/20/74/12/-9
   PaO2 / FiO2: 93
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: ),
   Pacer present in left chest wall
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   205 K/uL
   213 mg/dL
   3.1 mg/dL
   12 mEq/L
   4.6 mEq/L
   57 mg/dL
   115 mEq/L
   138 mEq/L
   31.8 %
   9.2 K/uL
        [image002.jpg]
                            [**2190-12-2**]  09:07 PM
                            [**2190-12-3**]  03:37 AM
                            [**2190-12-3**]  04:00 AM
   WBC
   9.8
   9.2
   Hct
   32.5
   31.8
   Plt
   169
   205
   Cr
   3.1
   3.1
   TCO2
   13
   Glucose
   158
   213
   Other labs: PT / PTT / INR:24.2/37.1/2.4, ALT / AST:56/52, Alk Phos / T
   Bili:149/0.9, Amylase / Lipase:60/96, Differential-Neuts:92.2 %,
   Lymph:6.0 %, Mono:1.4 %, Eos:0.2 %, Lactic Acid:2.8 mmol/L, LDH:270
   IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   GI BLEED -- initial concern may be relatively small component (guiac
   positive brown stool, stable Hct).  [**Month (only) 11**] have chronic blood loss
   attributable to underlying ulcerative colitis.
   HYPOTENSION -- attributed predominately to hypovolemia, now somewhat
   improved with fluid resussitation.  Empirical stress dose steroids
   added with concern for relative adrenal insufficiency.
   SEPSIS
 possible sources include C. diff, SBP, bacteremia.  Continue
   empirical antimicrobials.
   ENCEPHALOPATHY -- attributed to hepatic encephalopathy; improving with
   treatment of hypovolemia.  Continue lactulose.
   HYPOTHERMIA -- likely related to cirrhosis.  Possible sepsis -->
   cultures pending and empirical antimicrobials started.  Would desire
   sampling ascites fluid.  Check hypothyroidism.
   RENAL FAILURE -- acute on chronic insufficiency; attributed to
   hypovolemia (reduced PO intake, diarrhea, use of diuretics).  Monitor
   UO, BUN, creatinine.
   LACTIC ACIDOSIS -- improving with hydration.  Continue to monitor.
   FLUIDS -- continue to resussitate.  Monitor I/O.
   COAGULOPATHY
 continue coumadin
   NUTRITIONAL SUPPORT -- initiate PO as mental status improves.
   LUNG NODULE, right -- will require f/u in [**3-14**] months.
   LEFT THORACIC MASS -- ?diaphragmatic vs. lung parenchymal based.
   Concerns include diaphragmatic tumor, bronchogenic cyst, pericardial
   cyst, less likely sequestration.
 DIABETES MELLITUS (DM), TYPE II
 HYPOTENSION (NOT SHOCK)
 HYPOTHERMIA
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 .H/O CIRRHOSIS OF LIVER, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-12-2**] 08:25 PM
   Arterial Line - [**2190-12-3**] 03:15 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2190-12-04 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2190-12-3**] 09:00 AM
   8:30-9:00 Lever and kidney US- unable to mark place for tap for
   culture, INR 2.4
   Allergies:
   Iodine
   Unknown;
   Penicillins
   Hives; Shortnes
   Morphine
   Unknown;
   Flagyl (Oral) (Metronidazole)
   Unknown;
   Allopurinol
   Unknown;
   Erythromycin (Oral) (Erythromycin Base)
   Unknown;
   Tetracycline
   Unknown;
   Septra (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Ramipril
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-3**] 12:28 AM
   Ciprofloxacin - [**2190-12-3**] 10:21 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-12-3**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-4**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 70 (70 - 71) bpm
   BP: 102/56(71) {92/49(64) - 116/61(78)} mmHg
   RR: 15 (13 - 21) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Height: 67 Inch
             Total In:
                                                                  3,510 mL
                                                                    278 mL
   PO:
                                                                    550 mL
                                                                    160 mL
   TF:
   IVF:
                                                                  2,960 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                    759 mL
                                                                    220 mL
   Urine:
                                                                    434 mL
                                                                    220 mL
   NG:
   Stool:
                                                                    325 mL
   Drains:
   Balance:
                                                                  2,751 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.42/19/86.[**Numeric Identifier **]/12/-8
   Physical Examination
   GEN: Chronically ill-appearing male, no acute distress, altert and
   reponds to verbal commands with yes/no answers appropriately
   HEENT: EOMI, PERRL, sclera anicteric, MM very dry, OP Clear
   NECK: JVP flat, no cervical lymphadenopathy, trachea midline
   COR: RRR, 3/6 SEM at LSB, normal S1 S2, radial pulses +2, pacer pocket
   C/D/I left shoulder
   PULM: Lungs CTAB anterior, no W/R/R
   ABD: Soft, NT, ND, +BS, dullness to percussion at flanks
   EXT: No C/C/E, no palpable cords
   NEURO: A&Ox1. CN II
 XII grossly intact. Moves all 4 extremities.
   Unable to assess further due to mental status.
   SKIN: No jaundice, cyanosis, or gross dermatitis. No ecchymoses.
   Labs / Radiology
   177 K/uL
   10.0 g/dL
   201 mg/dL
   2.8 mg/dL
   12 mEq/L
   3.9 mEq/L
   60 mg/dL
   117 mEq/L
   138 mEq/L
   29.5 %
   19.3 K/uL
        [image002.jpg]
                            [**2190-12-2**]  09:07 PM
                            [**2190-12-3**]  03:37 AM
                            [**2190-12-3**]  04:00 AM
                            [**2190-12-3**]  04:12 PM
                            [**2190-12-3**]  04:21 PM
                            [**2190-12-4**]  02:38 AM
   WBC
   9.8
   9.2
   19.3
   Hct
   32.5
   31.8
   29.2
   29.5
   Plt
   169
   205
   177
   Cr
   3.1
   3.1
   3.0
   2.8
   TCO2
   13
   13
   Glucose
   158
   213
   201
   Other labs: PT / PTT / INR:24.2/37.1/2.4, ALT / AST:56/52, Alk Phos / T
   Bili:149/0.9, Amylase / Lipase:60/96, Differential-Neuts:92.2 %,
   Lymph:6.0 %, Mono:1.4 %, Eos:0.2 %, Lactic Acid:2.6 mmol/L, LDH:270
   IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   70M h/o ulcerative colitis, coronary disease s/p MI and CABG, CVA, CRI,
   Afib on coumadin, recent diagnosis cirrhosis c/b esophageal varices
   presents with 2 days decreased PO intake, vomiting, and bloody diarrhea
   admitted to ICU for hypotension and ?GI bleed.
   .
   # Hypotension: Per family baseline SBP 100-120. Differential includes
   hypovolemia due to poor PO intake and diarrhea, GI bleeding (risk
   factors of esophageal varices, UC erosions), sepsis. Less likely
   cardiogenic or neurogenic or medication induced or adrenal
   insufficiency (only on steroids for ~8 days). Most probable cause is
   hypovolemia which is multifactorial due to decreased POs, vomiting,
   diarrhea, diuretics; however given hypothermia consider infectious
   source (GI, pulmonary, urinary).
   - Hold ASA and coumadin for now but no acute reversal given stable Hct
   - Maintain 2 lg bore PIVs, consider CVL should more access be required
   - T&X, blood consent
   - Q6H Hct (maintain Hct>30 given significant underlying CAD)
   - NS fluid resuscitation but watch for CHF given EF 20-25%
   - Search for infectious source (?SBP, U/A, pulmonary, GI)
   - f/u urine and blood cultures; check C. diff
   - Portable CXR to eval for infiltrate - prelim negative, f/u final read
   and recheck CXR in AM post-hydration
   - Continue cipro and add vanco; low threshold for broadening or adding
   additional [**Doctor Last Name 23**] (?aztreonam given PCN allergy, could consider gent
   although renal failure)
   - Hold antihypertensives and diuretics
   - Place A-line should continue to remain hypotensive
   - Restarting PO steroids for now but consider stress dose if not
   improving with IVFs
   .
   # ?GI bleed: Likely related to UC given recent flare and discontinuing
   medications in the past week. Also consider mesenteric ischemia in
   vasculopath especially given elevated lactate although no abdominal
   pain at present.
   - PPI IV bid
   - Trend lactate
   - IVF hydration to maintain BP
   - Serial Hct per above
   - Check amylase
   - Guaiac all stools
   - Treat UC per below
   - If HD significant bleeding, call GI for possible scope and consider
   tagged cell scan, angio, or embolization
   .
   # Altered mental status: Likely due to hepatic encephalopathy off
   medications. Infectious causes also possible.
   - Lacutlose
   - f/u broad cultures
   - Consider para if ascites present
   - Continue cipro and vanco
   .
   # Ulcerative colitis: Followed by Dr. [**First Name (STitle) **]. Recent flare noted on
   C-scope [**10-18**]. Patient had been non-compliant with medications for the
   past week coinciding with worsening of his symptoms.
   - Restart prednisone 40mg daily per liver recs
   - Hold mesalamine and hydrocort enemas for now, will discuss with GI
   - Dr. [**First Name (STitle) **] to see in AM
   .
   # Cirrhosis: Stage IV based on varices, ascites, splenomegaly. Followed
   by Dr. [**Name (STitle) 1609**]. Etiology of cirrhosis was unclear. Possibility with
   PSC with UC was entertained and an outpatient ERCP was recommened by
   liver within 2 weeks of discharge.
   - Lactulose 30ml q4h for goal stool output >1L
   - Hold nadalol given hypotension
   - Ciprofloxacin for empiric SBP (has PCN allergy)
   - Abdominal U/S to assess biliary tree, ?ascites and marking
   - If ascites, will perform diagnostic paracentesis
   - Continue Ursodiol for ?PSC; consider inpatient MRCP/ERCP
   - Liver following
   - Will send anti-LKM and -SLA per liver to eval for autoimmune cause
   - Liver considering biopsy, will need echo to eval for transplant
   - Contact Dr. [**Name (STitle) 1609**] per family request
   .
   # Acute on chronic renal failure: Baseline Cre 1.8-2.0, currently 3.9.
   Likely prerenal [**3-13**] poor PO intake and diarrhea. ATN also possible from
   hypoperfusion given hypotension.
   - Maintain renal perfusion with IVF resuscitation
   - Check urine lytes
   - Renal ultrasound
   - Hold ACEi and diuretics for now
   - Trend Cre daily
   - Avoid nephrotoxins
   - Should not improve with fluids will consider renal consult
   .
   # Hyperkalemia: Due to acute renal failure. No ECG signs although A-V
   paced. Recheck K+.
   .
   # AG acidosis: Likely related to elevated lactate from poor tissue
   perfusion / hypotension related to above. Renal failure may also be
   contributing. Treat per above and monitor lactate serially.
   .
   # CAD: s/p multiple prior MI and CABG revascularization.
   - Hold ASA for now given hypotension and ?GI bleeding
   - Hold beta-blockers and lisinopril given hypotension
   - Continue statin
   .
   # Chronic systolic heart failure: EF 20-25% per OSH records, s/p ICD
   for VT w/ dual-chamber pacemaker. Appears euvolemic currently.
   - Follow volume status closely while rehydrating for low BPs
   - Holding nadolol, lasix, enalapril, and aldactone for now
   - Continue digoxin; check dig level
   - Daily weights and I/Os strictly
   .
   # Afib: A-V paced.
   - Continue digoxin and amiodarone
   - Hold beta-blockers and coumadin for now
   .
   # CVA: Reported to have had stroke in past in setting of not being on
   coumadin, complicated by residual defecits. Holding coumadin for now
   but no acute reversal given high risk for stroke and would resume
   tomorrow if HD stable and no significant bleeding.
   .
   # DM2: Unknown recent A1c. Hold metformin while in-house, and follow
   FSBG qid w/ ISS coverage.
   .
   # FEN:  NPO except meds, replete lytes prn
   # Access:  PIV x2 (18g)
   # PPx:  Therapeutic on coumadin, PPI
   # Code:  Full
   # Dispo:  ICU pending HD stability, improved mental status
   # Comm:  [**Name (NI) 288**] (daughter) ([**2190**]; cell ([**Telephone/Fax (1) 1612**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2190-12-2**] 08:25 PM
   Arterial Line - [**2190-12-3**] 03:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: